US06365734B1
120.0 mg of cyclen tetrahydrochloride (1,4,7,10-tetraazacyclodecane tetrahydrochloride) and 100.0 mg of cucurbit[8]uril were dissolved in water. Heating followed by slow cooling of the solution produced an inclusion complex in which a cyclen molecule was encapsulated in the cavity of cucurbit[8]uril as a colorless crystalline material.

reactant | cyclen tetrahydrochloride | 120.0 mg | C1CNCCNCCNCCN1.Cl.Cl.Cl.Cl
reactant | cucurbit[8]uril | 100.0 mg | C1N2C3C4N(C2=O)CN5C6C7N(C5=O)CN8C9C2N(C8=O)CN5C8C%10N(C5=O)CN5C%11C%12N(C5=O)CN5C%13C%14N(C5=O)CN5C%15C%16N(C5=O)CN5C%17C(N1C5=O)N1CN3C(=O)N4CN6C(=O)N7CN9C(=O)N2CN8C(=O)N%10CN%11C(=O)N%12CN%13C(=O)N%14CN%15C(=O)N%16CN%17C1=O | C48H48N32O16
solvent | water | O | H2O
product | cyclen | N1CCNCCNCCNCC1 | C8H20N4
